US06509366B2
A mixture of 3.35 g (27 mmol) of 4,5-dimethyl-2-imidazolecarboxaldehyde, 9.0 mL (77 mmol) of isoamylamine, 200 mL of ethanol, and 0.20 g of platinum dioxide is hydrogenated under 50 psi of pressure at 22° C. for 24 h. The solution is filtered, and the volatiles are evaporated under reduced pressure to give 5.17 g (98%) of N-[(4,5-dimethylimidazol-2-yl)methyl]-(3-methylbutyl)amine. Mass Spec m/z (M++1) 196.

reactant | 4,5-dimethyl-2-imidazolecarboxaldehyde | 27 mmol, 3.35 g | CC=1N=C(NC1C)C=O | C6H8N2O
reactant | isoamylamine | 77 mmol, 9.0 mL | C(CC(C)C)N | C5H13N
catalyst | platinum dioxide | 0.20 g | [Pt](=O)=O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N-[(4,5-dimethylimidazol-2-yl)methyl]-(3-methylbutyl)amine | 5.17 g, 98% | CC=1N=C(NC1C)CNCCC(C)C | C11H21N3
